US07696192B2
Step A. (2E)-3-Methylbutan-2-one (3-nitrophenyl)hydrazone
A mixture of isopropyl methyl ketone (2.5 g, 29 mol), 3-nitrophenylhydrazine hydrochloride (6.1 g, 32 mmol) and sodium acetate trihydrate (4.8 g, 35 mmol) in H2O (50 mL) and EtOH (50 mL) was stirred at 80° C. for 1 h. The reaction mixture was cooled and then concentrated under reduced pressure. The residue was partitioned between saturated aqueous NaHCO3 (100 mL) and CHCl3 (150 mL). The organic layer was removed and the aqueous phase was further extracted with CHCl3 (100 mL). The combined organic extracts were dried over Na2SO4, filtered, and concentrated in vacuo to give the title compound. MS: m/z=222 (M+1).

reactant | isopropyl methyl ketone | 29 mol, 2.5 g | CC(=O)C(C)C | C5H10O
reactant | 3-nitrophenylhydrazine hydrochloride | 32 mmol, 6.1 g | Cl.[N+](=O)([O-])C=1C=C(C=CC1)NN
reactant | sodium acetate trihydrate | 35 mmol, 4.8 g | O.O.O.C(C)(=O)[O-].[Na+]
solvent | H2O | 50 mL | O | H2O
solvent | EtOH | 50 mL | CCO | C2H6O
product | (2E)-3-Methylbutan-2-one (3-nitrophenyl)hydrazone | [N+](=O)([O-])C=1C=C(C=CC1)N\N=C(/C)\C(C)C | C11H15N3O2
